### PR TITLE
[Merged by Bors] - feat(Tactic/ComputeAsymptotics/Multiseries): Multiseries definition and structural lemmas

### PR DESCRIPTION
**Pull request by vasnesterov**
Define `Multiseries` and `MultiseriesExpansion` and restate some `Seq` API for `Multiseries`.

---

This is a part of the `compute_asymptotics` tactic (#28291).

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by joneugster — COMMENTED** [review]
The main reason I've unassgined myself last week was that I don't feel I have a good feeling about how these new definitions interplay with any other low level data types present in Mathlib and Lean and don't feel qualified to make a comment about this.

However, I think the tactic this is part of is really cool, so I'll give this another try (later tonight) and just avoid any statement about whether Multiseries relate to any existing structure.

Btw, thank you a lot for writing https://vasnesterov.github.io/compute_asymptotics !

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 1]
```diff
@@ -0,0 +1,397 @@
...
+namespace Multiseries
+
+/-- Converts a `Multiseries basis_hd basis_tl` to a `Seq (ℝ × MultiseriesExpansion basis_tl)`. -/
+def toSeq {basis_hd basis_tl} (ms : Multiseries basis_hd basis_tl) :
+    Seq (ℝ × MultiseriesExpansion basis_tl) :=
+  ms
+
+/-- The empty multiseries. -/
+def nil {basis_hd basis_tl} : Multiseries basis_hd basis_tl := Seq.nil
+
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean:85]:
```suggestion

instance {basis_hd basis_tl} : EmptyCollection (Multiseries basis_hd basis_tl) where
  emptyCollection := nil

```

optional, quality of life: then you could write `∅` instead of `.nil`

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 2]
```diff
@@ -0,0 +1,397 @@
...
+/-- Recursion principle for `Multiseries basis_hd basis_tl`. It is equivalent to
+`Stream'.Seq.recOn` but provides some convenience. -/
+@[cases_eliminator]
+def recOn {basis_hd basis_tl} {motive : Multiseries basis_hd basis_tl → Sort*}
+    (ms : Multiseries basis_hd basis_tl) (nil : motive nil)
+    (cons : ∀ exp coef (tl : Multiseries basis_hd basis_tl), motive (cons exp coef tl)) :
+    motive ms := by
+  cases ms using Stream'.Seq.recOn with
+  | nil => apply nil
+  | cons hd tl => apply cons
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]:
```suggestion
    motive ms := Stream'.Seq.recOn _ nil fun _ _ ↦ cons _ _ _
```
optional suggestion

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 3]
```diff
@@ -0,0 +1,397 @@
...
+  (Seq.destruct ms).map (fun ((exp, coef), tl) => (exp, coef, tl))
+
+/-- The head of a multiseries, i.e. the first two elements of `destruct`. -/
+def head {basis_hd basis_tl} (ms : Multiseries basis_hd basis_tl) :
+    Option (ℝ × MultiseriesExpansion basis_tl) :=
+  Seq.head ms
+
+/-- The tail of a multiseries, i.e. the last element of `destruct`. -/
+def tail {basis_hd basis_tl} (ms : Multiseries basis_hd basis_tl) : Multiseries basis_hd basis_tl :=
+  Seq.tail ms
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]: I think there is an inconsistency in how you count in the doc strings (`first two elements` vs. `last element`), isn't there?

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 4]
```diff
@@ -0,0 +1,397 @@
...
+  rw [mk_eq_mk_iff]
+
+@[simp]
+theorem mk_eq_mk_iff_iff {basis_hd basis_tl}
+    (ms : MultiseriesExpansion (basis_hd :: basis_tl))
+    (s : Multiseries basis_hd basis_tl) (f : ℝ → ℝ) :
+    mk s f = ms ↔ ms.seq = s ∧ ms.toFun = f := by
+  rw [@Eq.comm _ (mk s f) ms, ms_eq_mk_iff]
+
+theorem ms_eq_ms_iff_mk_eq_mk {basis_hd basis_tl}
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]: This name seems off.

**Review by joneugster — APPROVED** [review]
The PR is actually quite well structured and looks good to me!

Most statements are direct adaptions of the same statements for `Seq`, the entire API looks perfectly fine to me (modulo the three small suggestions)

As mentioned above, if somebody else could give the 2 definitions another look, that would probably be good. But after reviewing the rest of the PR they look sensible to me.

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 5]
```diff
@@ -0,0 +1,397 @@
...
+module
+
+public import Mathlib.Data.Seq.Basic
+public import Mathlib.Data.Real.Basic
+
+/-!
+
+# Multiseries definitions
+
+In this file we define the multiseries and its main properties: sortedness and approximation.
```
Comment (Vierkantor) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]: When I first read this file I found it hard to see the motivation and the structure. So something like this is helpful: (assuming my understanding is correct)
```suggestion
In this file we define the multiseries and its main properties: sortedness and approximation.

A multiseries in a basis `[b₁, ..., bₙ]` represents a multivariate geometric series: it is a formal series made from monomials
`b₁ ^ e₁ * ... * bₙ ^ eₙ` where `e₁, ..., eₙ` are real numbers. We treat multivariate series in
a basis `[b₁, ..., bₙ]` as a univariate series in the variable `b₁` (`basis_hd`) with coefficients
being multiseries in the basis `[b₂, ..., bₙ]` (`basis_tl`).
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 6]
```diff
@@ -0,0 +1,397 @@
...
+
+## Main definitions
+
+* `Basis` is the list of functions used to construct monomials in multiseries.
+* `Multiseries basis_hd basis_tl` is the type of multiseries in a basis `basis_hd :: basis_tl`.
+* `MultiseriesExpansion basis` is an multiseries expansion of some function `f : ℝ → ℝ`.
```
Comment (Vierkantor) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]:
```suggestion
* `MultiseriesExpansion basis` is a multiseries expansion of some function `f : ℝ → ℝ`.
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 7]
```diff
@@ -0,0 +1,397 @@
...
+
+open Stream'
+
+/-- List of functions used to construct monomials in multiseries. -/
+abbrev Basis := List (ℝ → ℝ)
+
+/-- Multiseries representing a given function `f : ℝ → ℝ`.
+`MultiseriesExpansion []` is just `ℝ`: multiseries representing constant functions.
+Otherwise it is a pair of a `Multiseries basis_hd basis_tl` and a function `ℝ → ℝ`. We call
+the former an expansion of the latter. -/
```
Comment (Vierkantor) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]: Could you explain in this comment what the (intended) relationship between the multiseries and its expansion is supposed to be?

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean (hunk 3 above)
Comment (Vierkantor) [reply Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]: If I understand correctly, the "elements" in these docstrings refer to entries in the tuple `(ℝ × MultiseriesExpansion basis_tl × Multiseries basis_hd basis_tl)`.

For clarity maybe replace "element(s) of `destruct`" with "entry(ies) of the tuple `destruct ms`"?

**Review by Vierkantor — COMMENTED** [review]
On the small scale this PR looks okay to me, but I am having trouble getting the bigger picture. Especially the comments could help here by describing the goals of these definitions.

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean (hunk 1 above)
Comment (vasnesterov) [reply Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean:85]: I prefer `nil`, as with lists. But I think some notation would be useful. For example, `m[]` for `nil` and `(exp, coef) ::ₘ tl` for `cons exp coef tl`. What do you think?

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean (hunk 7 above)
Comment (vasnesterov) [reply Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]: Done

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean (hunk 1 above)
Comment (joneugster) [reply Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean:85]: I'm a bit worried that `[]` or `[]ₘ` or so would be brittle in parsing as `[` is quite overloaded already...

Actually you're probably right and `nil` is just fine.

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean (hunk 3 above)
Comment (joneugster) [reply Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]: ah yes, I was not reading this correctly at all

**Review by ocfnash — APPROVED** [review]
Thanks!

bors merge
